US07425634B2
(9i) 2-(((4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole
To a toluene (30 ml)/methanol (3 ml) solution of the 2-(((4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole (290 mg, 0.73 mmol) obtained in the step (9h), a toluene/methanol (10:1) solution of 3-chloroperbenzoic acid (174 mg, 0.65 mmol as the content was regarded as 65%) was added at −70° C. in a nitrogen atmosphere. After the mixture was stirred at −50° C. for one hour, a saturated aqueous solution of sodium hydrogen carbonate was added. After the mixture was warmed to room temperature, the mixture was extracted with ethyl acetate twice. Organic layers were combined and dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (NH silica gel, elution solvent: ethyl acetate, ethyl acetate/methanol=9/1). Fractions containing the title compound was collected by use of ethyl acetate and concentrated. After diethyl ether was added to the residue, the solvent was distilled off to obtain the title compound (230 mg, yield: 76.2%) as a white solid.

reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(((4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 0.73 mmol, 290 mg | C1CCC12OCC(CO2)OC2=C(C(=NC=C2)CSC2=NC1=C(N2)C=CC=C1)C | C21H23N3O3S
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene methanol | C1(=CC=CC=C1)C.CO
solvent | methanol | 3 ml | CO | CH4O
product | 2-(((4-(5,9-dioxaspiro[3.5]non-7-yloxy)-3-methylpyridin-2-yl)methyl)sulfinyl)-1H-benzimidazole | 230 mg, yield: 76.2% | C1CCC12OCC(CO2)OC2=C(C(=NC=C2)CS(=O)C2=NC1=C(N2)C=CC=C1)C | C21H23N3O4S
